US04595677
1.32 g of Z-Ile-OSu [G. W. Anderson et. al., J. Amer. Chem. Soc. 86, 1839 (1964)] are dissolved in the above solution of H-His-Lys(Boc)-OMe in approximately 10 ml of DMF and mixed with 0.41 ml of NEt3. The whole is left to stand for 8 hours at room temperature, 15 ml of diisopropyl ether are added, and the whole is homogenised and filtered. The residue obtained by filtering with suction is dissolved in 15 ml of methanol and added at 0° to 23 ml of aqueous NaHCO3 solution. The resulting precipitate is filtered off, washed with H2O, dried and dissolved and reprecipitated from MeOH/ethyl acetate/petroleum ether, yielding Z-Ile-His-Lys(Boc)-OMe in the form of amorphous powder; Rf (B)=0.65; Rf (I)=0.48.

reactant | Z-Ile-OSu | 1.32 g | N([C@@H]([C@@H](C)CC)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C18H22N2O6
reactant | NEt3 | 0.41 ml | CCN(CC)CC | C6H15N
reactant | diisopropyl ether | 15 ml | C(C)(C)OC(C)C | C6H14O
reactant | H-His-Lys(Boc)-OMe | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C18H31N5O5
solvent | DMF | approximately 10 ml | CN(C)C=O | C3H7NO
product | Z-Ile-His-Lys(Boc)-OMe | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C32H48N6O8
